US04849544
A suitable autoclave was charged with 1 g (0.052 mol) of purified 1,3-diamino-2,4,6-triethylbenzene, 0.15 g (1.2 mmol) of potassium t-butoxide, 1.0 g of 5% Ru on alumina, and 50 mL of t-butanol and heated to 190° C. at 25.5 MPa hydrogen for 17 hours. The autoclave was then cooled and its contents filtered. The solvent was removed from the filtrate in vacuo and the resulting liquid distilled through a 20.3 cm. Vigreaux column at about 1 mm Hg/187°-191° C. to give 6.8 g (66%) of 1,3-diamino-2,4,6-triethylcyclohexane.

reactant | 1,3-diamino-2,4,6-triethylbenzene | 0.052 mol, 1 g | NC1=C(C(=C(C=C1CC)CC)N)CC | C12H20N2
reactant | potassium t-butoxide | 1.2 mmol, 0.15 g | CC(C)([O-])C.[K+]
reactant | hydrogen | [H][H] | H2
catalyst | Ru on alumina | 1.0 g | [Ru] | Ru
solvent | t-butanol | 50 mL | C(C)(C)(C)O | C4H10O
product | 1,3-diamino-2,4,6-triethylcyclohexane | 6.8 g, 66% | NC1C(C(C(CC1CC)CC)N)CC | C12H26N2
